US08486952B2
2-chloro-4-(methylamino)-8-phenyl-5,6,7,8-tetrahydroquinazolin-8-ol
To a solution of 2-chloro-4-(methylamino)-8-phenyl-7,8-dihydroquinazolin-8-ol (20 mg) in EtOAc (5 mL) was added 5% Pd/C (6 mg), and the resulting suspension was stirred under a hydrogen balloon for 1 h. The reaction mixture was filtered through a pad of Celite to give the title compound as a colorless oil (20 mg).

reactant | 2-chloro-4-(methylamino)-8-phenyl-7,8-dihydroquinazolin-8-ol | 20 mg | ClC1=NC=2C(CC=CC2C(=N1)NC)(O)C1=CC=CC=C1 | C15H14ClN3O
solvent | EtOAc | 5 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 6 mg | [Pd] | Pd
product | 2-chloro-4-(methylamino)-8-phenyl-5,6,7,8-tetrahydroquinazolin-8-ol | 20 mg | ClC1=NC=2C(CCCC2C(=N1)NC)(O)C1=CC=CC=C1 | C15H16ClN3O
